US04629495
A solution of 5-(3-chloropropionamido)-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (4.12 g) in a mixture of dimethylformamide (20 ml) and dichloromethane (80 ml) was added dropwise over 6 hours to a rapidly stirred suspension of powdered sodium hydride (0.30 g) in a mixture of dimethylformamide (20 ml) and dichloromethane (80 ml) at laboratory temperature. The reaction mixture was then stirred for 24 hours. After standing at laboratory temperature for 48 hours, saturated aqueous ammonium chloride solution was added. The organic layer was removed, washed with water, dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was chromatographed using diethyl ether-hexane (1:1) as eluent. Evaporation of the eluate containing the faster moving component gave 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(2-oxo-azetidin-1-yl)pyrazole (1.40 g), m.p. 162°-164° C., in the form of a colourless solid.

reactant | 5-(3-chloropropionamido)-4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 4.12 g | ClCCC(=O)NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N | C14H8Cl3F3N4O
reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-(2-oxo-azetidin-1-yl)pyrazole | 1.40 g | C(#N)C=1C=NN(C1N1C(CC1)=O)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H7Cl2F3N4O
